US08278341B2
To a solution of 1,2-dibromoethane (>5 equiv) in acetonitrile was added Cs2CO3 (2 equiv) and 5,7-diBOC-2,10-difluoro-6-hydroxyindolo[2,3-b]carbazole (1 equiv) under argon. The suspension was refluxed and the reaction was monitored by TLC. After completion of the reaction (1-3 hours), the solid was removed by filtration and washed with dichloromethane. The combined filtrate was concentrated and the residue was subjected to chromatography on silica gel, eluting with 8% ethyl acetate in hexanes to give 5,7-diBOC-2,10-difluoro-6-(2-bromoethoxy)indolo[2,3-b]carbazole (77%). 1H NMR (400 MHz, CDCl3) δ ppm 8.13 (s, 1H), 8.06 (dd, J=9.0, 4.2 Hz, 2H), 7.68 (dd, J=8.4, 2.8 Hz, 2H), 7.17 (td, J=9.0, 2.8 Hz, 2H), 4.21 (t, J=6.8 Hz, 2H), 3.42 (t, J=7.0 Hz, 2H), 1.74 (s, 18H).

reactant | 1,2-dibromoethane | >5 equiv | BrCCBr | C2H4Br2
reactant | Cs2CO3 | 2 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5,7-diBOC-2,10-difluoro-6-hydroxyindolo[2,3-b]carbazole | 1 equiv | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)O)N(C=1C=CC(=CC13)F)C(=O)OC(C)(C)C)F | C28H26F2N2O5
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,7-diBOC-2,10-difluoro-6-(2-bromoethoxy)indolo[2,3-b]carbazole | 77% | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)OCCBr)N(C=1C=CC(=CC13)F)C(=O)OC(C)(C)C)F | C30H29BrF2N2O5
